US05025036
A solution of 1.15 g of 2-hydroxy-4-[6-[2,3-bis(phenylmethoxy)phenyl]hexyloxy]-3-propylbenzoic acid phenylmethyl ester in 15 mL of pyridine and 15 mL of acetic anhydride was stirred and heated at 50° for 15 hours. The reaction mixture was concentrated on the oil pump. The residue was dissolved in ethyl acetate and the solution was washed with sodium bicarbonate solution, dried and concentrated under reduced pressure to give 1.03 g of 2-acetyloxy-4-[6-[2,3-bis(phenylmethoxy)phenyl]hexyloxy]-3-propylbenzoic acid phenylmethyl ester as an oil.

reactant | 2-hydroxy-4-[6-[2,3-bis(phenylmethoxy)phenyl]hexyloxy]-3-propylbenzoic acid phenylmethyl ester | 1.15 g | C1(=CC=CC=C1)COC(C1=C(C(=C(C=C1)OCCCCCCC1=C(C(=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)CCC)O)=O | C43H46O6
reactant | acetic anhydride | 15 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
product | 2-acetyloxy-4-[6-[2,3-bis(phenylmethoxy)phenyl]hexyloxy]-3-propylbenzoic acid phenylmethyl ester | 1.03 g | C1(=CC=CC=C1)COC(C1=C(C(=C(C=C1)OCCCCCCC1=C(C(=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)CCC)OC(C)=O)=O | C45H48O7
